US04528282
The process described in Example 17 was repeated using ethyl 5,5-ethylenedioxy-2-oxo-5-phenylpentanoate and L-alanyl-L-proline as starting materials. There was thus obtained as an oil N-[1-ethoxycarbonyl-4,4-ethylenedioxy-4-phenylbutyl]-L-alanyl-L-proline.

reactant | ethyl 5,5-ethylenedioxy-2-oxo-5-phenylpentanoate | C1OC(CCC(C(=O)OCC)=O)(C2=CC=CC=C2)OC1 | C15H18O5
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
product | N-[1-ethoxycarbonyl-4,4-ethylenedioxy-4-phenylbutyl]-L-alanyl-L-proline | C(C)OC(=O)C(CCC1(C2=CC=CC=C2)OCCO1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C23H32N2O7
